US04335122
A. 11-Chloro-2-methoxy-6,11-dihydrodibenz[b,e]oxepin
11-Hydroxy-2-methoxy-6,11-dihydrodibenz[b,e]oxepin (13.85 g, 0.057 mole) is dissolved in anhydrous ether (180 ml) and cooled to 5° C. under a dry nitrogen atmosphere. Thionyl chloride (7.37 g; 0.062 mole) in ether (20 ml) is added dropwise while maintaining the temperature below 5° C. (Near the end of the addition a solid precipitates from the solution). The reaction is stirred at ambient temperature for 3 hours and filtered. The filtrate is removed in vacuo to give a solid which is combined with the filtered solid and recrystallized from cyclohexane to provide 10.5 g (70%) of crystals of 11-chloro-2-methoxy-6,11-dihydrodibenz[b,e]oxepin, m.p. 133°-134.5° C.

reactant | 11-Hydroxy-2-methoxy-6,11-dihydrodibenz[b,e]oxepin | 0.057 mole, 13.85 g | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OC | C15H14O3
reactant | Thionyl chloride | 0.062 mole, 7.37 g | S(=O)(Cl)Cl | Cl2OS
solvent | ether | 180 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 11-Chloro-2-methoxy-6,11-dihydrodibenz[b,e]oxepin | 10.5 g, 70% | ClC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OC | C15H13ClO2
